US07125901B2
tert-Butyl (2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)carbamate (250 mg) was dissolved in ethyl acetate (4 mL) and 4 N hydrogen chloride in ethyl acetate (2 mL). The solvent was evaporated in vacuo. The solid was washed with ethyl acetate and ethyl ether to give N-{4-[4-(2-aminoethyl)phenyl]-1,3-thiazol-2-yl}acetamide hydrochloride (220 mg, 106%).

reactant | tert-Butyl (2-{4-[2-(acetylamino)-1,3-thiazol-4-yl]phenyl}ethyl)carbamate | 250 mg | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C18H23N3O3S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-{4-[4-(2-aminoethyl)phenyl]-1,3-thiazol-2-yl}acetamide hydrochloride | 220 mg, 106% | Cl.NCCC1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | InChI=1S/C13H15N3OS.ClH/c1-9(17)15-13-16-12(8-18-13)11-4-2-10(3-5-11)6-7-14;/h2-5,8H,6-7,14H2,1H3,(H,15,16,17);1H
